US07214824B2
35(c): 7-Methoxy-4,4-dimethylchromane
To a toluene (30 ml) solution of 2-(3-hydroxy-1,1-dimethylpropyl)-5-methoxyphenol (3.0 g, 14.3 mmol) was added catalytic amount of p-toluenesulfonic acid. The stirred mixture was refluxed for 2 hours. The reaction mixture was then quenched with saturated aqueous solution of sodium bicarbonate and then crude products were extracted with ethyl acetate The organic layer was then washed with brine, dried over sodium sulfate. After filtration to separate solvent and sodium sulfate, the solvent was removed under reduced pressure to give a residue, which was applied to a silica gel chromatography column and eluted with ethyl acetate/hexane=1/9 to furnish 2.1 g (75% yield) of the title compound as a colorless oil.

reactant | 2-(3-hydroxy-1,1-dimethylpropyl)-5-methoxyphenol | 14.3 mmol, 3.0 g | OCCC(C)(C)C1=C(C=C(C=C1)OC)O | C12H18O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 7-Methoxy-4,4-dimethylchromane | 2.1 g, 75% yield | COC1=CC=C2C(CCOC2=C1)(C)C | C12H16O2
